US08404896B2
An ether solution (2 mL) of 1-bromo-3-fluoro-5-(trifluoromethyl)benzene (0.200 g, 0.826 mmol) was stirred in an oven-dried round bottom flask at −78° C. under Ar. To this solution, n-BuLi (2.0 M in cyclohexane, 0.41 mL, 0.82 mmol, 1.0 eq) was added dropwise. The resulting solution was stirred at −78° C. for 30 min. 5-Fluoropicolinonitrile (0.101 g, 0.828 mmol, 1.0 eq), prepared as described in Procedure 1, was added as a solid via addition funnel. The resulting red solution was stirred at −78° C. for 1 h. The reaction mixture was quenched with HCl (10 mL, 1.0 M) and extracted with EtOAc (3×10 mL). The combined organic portions were dried over Na2SO4, decanted and the volume was reduced to 5 mL under reduced pressure. The resulting oil was loaded directly onto a silica gel ISCO cartridge (40 g). Gradient elution from 0-70% EtOAc in hexane over 20 min yielded (3-fluoro-5-(trifluoromethyl)phenyl)(5-fluoropyridin-2-yl)methanone as a pale brown oil at a retention time of 7 min (0.117 g, 49% yield). LCMS: RT=1.91 min [M+H] 288.2 (2 min Phenomenex Luna C18 column, 4.6×30 mm eluting with 10-90% MeOH/H2O over 2 minutes containing 0.1% TFA; 5 mL/min, monitoring at 220 nm); HPLC: RT=3.69 min (Phenomenex Luna C18 column, 4.6×50 mm eluting with 10-90% MeOH/H2O over 4 minutes containing 0.2% PPA; 4 mL/min, monitoring at 220 nm, purity 97%); NMR: 400 MHz 1H (CDCl3) ppm 8.50 (d, J=2.4 Hz, 1 H), 8.19 (dd, J=4.0 and J=8.0 Hz, 1 H), 8.15 (s, 1 H), 8.00 (d, J=8.0 Hz, 1 H), 7.57 (ddd, J=3.08, J=2.4 and J=8.0 Hz).

reactant | 1-bromo-3-fluoro-5-(trifluoromethyl)benzene | 0.826 mmol, 0.200 g | BrC1=CC(=CC(=C1)C(F)(F)F)F | C7H3BrF4
reactant | n-BuLi | 0.82 mmol, 2.0 M, 0.41 mL, 1.0 eq | [Li]CCCC
reactant | 5-Fluoropicolinonitrile | 0.828 mmol, 0.101 g, 1.0 eq | FC=1C=CC(=NC1)C#N | C6H3FN2
reactant | ether | 2 mL | CCOCC | C4H10O
product | (3-fluoro-5-(trifluoromethyl)phenyl)(5-fluoropyridin-2-yl)methanone | 49% yield | FC=1C=C(C=C(C1)C(F)(F)F)C(=O)C1=NC=C(C=C1)F | C13H6F5NO
